US08440710B2
Step 3: 4-Hydroxy-1-(2-methoxy-ethyl)-cyclohexanecarboxylic acid ethyl ester
1-(2-Methoxy-ethyl)-4-oxo-cyclohexanecarboxylic acid ethyl ester (1.60 g) was dissolved in 2-propanol (25 mL) The mixture was cooled to 0° C. and sodium borohydride (331 mg) was added in 3 portions over 10 minutes. Stirring was continued for 2 hours at 0° C. The reaction mixture was poured into ice/water and extracted two times with ethyl acetate. The combined organic layers were washed with brine, dried over Na2SO4, filtered and the solvent was evaporated. The title compound was obtained as an inseparable mixture of cis and trans diastereomeres (ratio: 3/1) as a light yellow liquid (1.58 g, 98%). This mixture was used without further purification. MS (EI)=230.0 [MH+].

reactant | 1-(2-Methoxy-ethyl)-4-oxo-cyclohexanecarboxylic acid ethyl ester | 1.60 g | C(C)OC(=O)C1(CCC(CC1)=O)CCOC | C12H20O4
reactant | sodium borohydride | 331 mg | [BH4-].[Na+]
solvent | 2-propanol | 25 mL | CC(C)O | C3H8O
product | 4-Hydroxy-1-(2-methoxy-ethyl)-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCC(CC1)O)CCOC | C12H22O4
